US07115620B2
To a solution of 4-dimethylaminophenyl isothiocyanate (4.5 g, 25 mmol) in diethyl ether (100 mL) at room temperature was added a solution of 2,2-dimethyl-1-propanamine (2.94 mL, 25 mmol) and the reaction was stirred at room temperature for 3 hours. The precipitated solid was collected by filtration and dried to afford 5.7 g (85%) of N-[4-(dimethylamino)phenyl]-N′-(2,2-dimethylpropyl)-thiourea, as a white solid: mp 174–176° C.; 1H NMR (DMSO-d6): δ 9.17 (br s, 1H), 7.13 (d, 2H), 7.10 (br s, 1H), 6.68 (d, 2H), 3.33 (d, 2H), 2.86 (s, 6H), and 0.87 ppm (s, 9H); IR (KBr) 3400, 3160, 1600, 1550 cm−1; MS (m/z) 265 (M+).

reactant | 4-dimethylaminophenyl isothiocyanate | 25 mmol, 4.5 g | CN(C1=CC=C(C=C1)N=C=S)C | C9H10N2S
reactant | 2,2-dimethyl-1-propanamine | 25 mmol, 2.94 mL | CC(CN)(C)C | C5H13N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | N-[4-(dimethylamino)phenyl]-N′-(2,2-dimethylpropyl)-thiourea | 5.7 g, 85% | CN(C1=CC=C(C=C1)NC(=S)NCC(C)(C)C)C | C14H23N3S
